US07435837B2
Treatment of (±)-1-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methanamine (3.25 g, 13.4 mmol) with diisopropylethylamine (4.34 g, 33.6 mmol) and benzyl chloroformate (2.64 g, 15.5 mmol) generally according to the procedure described for Intermediate 12 gave 4.37 g (96%) of (±)-benzyl(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a white solid. mp 73-76° C.; Anal. Calcd. for C21H25NO3 C, 74.31; H, 7.42; N, 4.13. Found C, 74.95; H, 7.51; N, 4.18. Chiral HPLC separation of (±)-benzyl(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralcel OJ, ethanol) provided two fractions. Fraction 1 (Rt=9.100 min, Chiralcel OJ, ethanol); Fraction 2 (Rt=14.428 min, Chiralcel OJ, ethanol).

reactant | (±)-1-(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methanamine | 13.4 mmol, 3.25 g | C(C)(C)(C)C1=CC=CC=2CC(OC21)CN | C13H19NO
reactant | diisopropylethylamine | 33.6 mmol, 4.34 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 15.5 mmol, 2.64 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(7-tert-butyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 4.37 g, 96% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C(C)(C)C)=O | C21H25NO3
